US09126969B2
382 mg of sodium hydride (60% in suspension in oil) are added in small portions, over two hours, to a solution of 4-piperidin-1-ylbutan-1-ol in 10 mL of DMF, cooled to 0° C. with an ice bath. A solution of 4,5-difluoro-2-nitroaniline in 5 mL of N,N-dimethylformamide is then added dropwise. The medium is stirred at ambient temperature for 24 hours. 60 mL of distilled water are added and the reaction medium is extracted with 3×30 mL of ethyl acetate. The combined organic phases are dried over magnesium sulfate, filtered and concentrated under vacuum in a rotary evaporator. The reaction crude is purified by flash chromatography on an Intelliflash apparatus with an Analogix RS-12 silica cartridge, with a 100% to 85/15 dichloromethane/-methanol elution gradient. 700 mg of 4-fluoro-2-nitro-5-(4-piperidin-1-ylbutoxy)phenylamine are isolated in the form of a red oil. 1H NMR (300 MHz, DMSO-d6, δ in ppm): from 1.29 to 1.62 (m, 8H); 1.75 (m, 2H); 2.28 (m, 6H); 4.07 (t, J=6.5 Hz, 2H); 6.62 (d, J=7.5 Hz, 1H); 7.48 (broad s, 2H); 7.74 (d, J=12.0 Hz, 1H).

reactant | sodium hydride | 382 mg | [H-].[Na+]
reactant | 4-piperidin-1-ylbutan-1-ol | N1(CCCCC1)CCCCO | C9H19NO
reactant | 4,5-difluoro-2-nitroaniline | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | water | 60 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-fluoro-2-nitro-5-(4-piperidin-1-ylbutoxy)phenylamine | 700 mg | FC1=CC(=C(C=C1OCCCCN1CCCCC1)N)[N+](=O)[O-] | C15H22FN3O3
